US08624006B2
3-O-Benzyl-1-O-oleyl-2-O-palmitoyl-sn-glycerol:
A 4 mL solution of DCC (111 mg, 0.54 mmol), DMAP (3 mg, 0.02 mmol) and palmitic acid (86 mg, 0.34 mmol) in CH2Cl2 was cooled to 0° C. A solution of 3-O-benzyl-1-O-oleyl-sn-glycerol (100 mg, 0.228 mmol) in CH2Cl2 (2 mL) was added to it in a drop-wise manner and stirred for 12 h at rt. The mixture was filtered over Celite, washed with saturated aqueous sodium bicarbonate solution and brine, dried on anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography using silica gel (hexane:EtOAc=15:1, Rf=0.35) to get the product (154 mg, quantitative) as colorless oil. [α]D28+5° (c=2.0, CHCl3); IR (CHCl3) cm−1 2924, 2854, 1742, 1651, 1460, 1369, 1241, 1164, 1109, 1028, 733, 698 cm−1; 1H NMR (600 MHz, CDCl3) δ 0.88 (t, J=7.2 Hz, 6H, CH3), 1.22-1.38 (m, 44H, CH2), 1.52 (dt, J=7.2, 14.4 Hz, 4H, CH2), 1.94 (dd, J=6.6, 12.6 Hz, 4H, CH2), 2.20 (t, J=7.8 Hz, 2H, CH2), 2.24 (t, J=7.8 Hz, 2H, CH2), 3.51 (ddd, J=5.0, 10.2, 15.6 Hz, 2H, CH2OBn), 4.11 (dd, J=5.4, 12.0 Hz, 1H, CH2OAcyl), 4.27 (dd, J=3.6, 12.0 Hz, 1H, CH2OAcyl), 4.44, 4.48 (AB q, J=12.0 Hz, 2H, PhCH2), 4.06 (dt, J=4.2, 9.0 Hz, 1H, CH), 5.35 (ddd, J=6.0, 11.4, 15.6 Hz, 2H, CH═CH 7.20-7.32 (m, 5H, ArH); 13C NMR (150 MHz, CDCl3) δ 14.1, 22.65, 22.66, 24.8, 24.9, 27.1, 27.2, 29.06, 29.09, 29.16, 29.27, 29.29, 29.33, 29.46, 29.50, 29.61, 29.63, 29.67, 29.74, 31.88, 31.90, 34.1, 34.3, 62.6, 68.2, 70.0, 73.3, 127.6, 127.7, 128.4, 129.7, 130.0, 137.7, 173.0, 173.3; EMSI calc'd for C44H76NaO5 [M+Na]+ 707.56. found: 707.50.

reactant | DCC | 0.54 mmol, 111 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | palmitic acid | 0.34 mmol, 86 mg | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | 3-O-benzyl-1-O-oleyl-sn-glycerol | 0.228 mmol, 100 mg | C(C1=CC=CC=C1)OC[C@@H](COCCCCCCCC\C=C/CCCCCCCC)O | C28H48O3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | DMAP | 0.02 mmol, 3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-O-Benzyl-1-O-oleyl-2-O-palmitoyl-sn-glycerol | C(C1=CC=CC=C1)OC[C@@H](COCCCCCCCC\C=C/CCCCCCCC)OC(CCCCCCCCCCCCCCC)=O | C44H78O4
